simulator lang=spectre

global 0 vdd vss
include "./22nm_HP.pm"

vdd_I1 ( vdd 0 ) vsource dc = 0.8
vss_I1 ( vss 0 ) vsource dc = 0


*********Inverter*********


parameters L=22n Ln=L Wn=2*Ln k=1.292
subckt inv ( out in )
m1 ( out in vdd vdd ) pmos l=L w=k*Wn
m3 ( out in vss vss ) nmos l=Ln w=Wn
ends inv


xinv0 ( 1 1 ) inv

dc1 dc param=k start=0.5 stop=10 step=0.1

saveOptions options save=all
